US05312823
a) Ethyl N-propargylcarbamate
115 g (2. 1 mol) of propargylamine is introduced into 1 1 of toluene, 91 g of sodium hydroxide dissolved in 400 ml of water are added, and 239 g (2.2 mol) of ethyl chloroformate are added dropwise at 10° C. The mixture is stirred for three hours at room temperature, the organic phase is separated off, the aqueous phase is extracted using toluene, the organic solutions are dried over magnesium sulphate and concentrated, and the concentrate is distilled.

reactant | propargylamine | 1 mol, 115 g | C(C#C)N | C3H5N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 91 g | [OH-].[Na+]
reactant | ethyl chloroformate | 2.2 mol, 239 g | ClC(=O)OCC | C3H5ClO2
solvent | water | 400 ml | O | H2O
product | Ethyl N-propargylcarbamate | C(C#C)NC(OCC)=O | C6H9NO2
